US08026257B2
tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (25 mg, 0.039 mmol) in dimethylformamide (0.5 mL) at 0° C. was added sodium hydride (60%, 3.15 mg, 0.079 mmol). After 5 min, the reaction was treated with iodomethane (4.93 μL, 0.079 mmol). The ice bath was removed and stirring continued for 1 h. The reaction was cooled to 0° C. and quenched by the cautious addition of saturated ammonium chloride. The reaction was diluted with diethyl ether and the layers separated. The ethereal was washed with water (2×). then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25% ethyl acetate/n-hexane) gave 22 mg (86%) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 8.00 (s, 1H), 7.51 (d, J=1.8 Hz, 1H), 7.31 (dd, J=8.9, 5.2 Hz, 2H), 7.02 (dd, J=8.9, 8.5 Hz, 2H), 6.74 (s, 1H), 5.67 (d, J=10.7 Hz, 1H), 5.63 (d, J=10.7 Hz, 1H), 5.06 (dd, J=7.3, 2.7 Hz, 1H), 3.50-3.80 (m, 6H), 3.48 (d, J=9.2 Hz, 1H), 3.41 (d, J=9.2 Hz, 1H), 3.33 (s, 3H), 3.06 (m, 2H), 2.23 (m, 1H), 2.07 (m, 1H), 1.97 (m, 1H), 1.87 (m, 1H), 1.69 (bs, 1H), 1.44 (s, 9H), 0.91 (t, J=8.2 Hz, 2H), −0.05 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.5 (d, J=245 Hz), 155.1, 145.7, 138.84, 138.82, 130.8, 128.9 (d, J=7.7 Hz), 128.1, 124.3, 122.8, 122.2, 118.3, 115.2 (d, J=21), 81.9, 79.4, 78.7, 77.9, 76.1, 67.7, 59.4, 41.4, 40.2 (br), 32.4, 32.0, 28.6, 17.9, −1.4. Mass spec.: 648.38 (MH)+.

reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.039 mmol, 25 mg | ClC1=CC2=CN(N=C2C(=C1)C(CO)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45ClFN3O5Si
reactant | sodium hydride | 0.079 mmol, 3.15 mg | [H-].[Na+]
reactant | iodomethane | 0.079 mmol, 4.93 μL | IC | CH3I
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(COC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H47ClFN3O5Si
